US08048909B2
1-[(4-Methoxyphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde
Ethyl 1-[(4-methoxyphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carboxylate (430 mg) was dissolved in tetrahydrofuran (10 mL), and the mixture was cooled to −78° C. A 1.5 mol/l solution (3.36 mL) of diisobutylaluminum hydride in toluene was added dropwise, and the mixture was further stirred at −78° C. for 1 hr. 1 mol/l Hydrochloric acid (20 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in acetonitrile (10 mL), tetra-n-propylammonium perruthenate (39 mg), N-methylmorpholine N-oxide (227 mg) and molecular sieves 4A powder (500 mg) were added, and the mixture was stirred at room temperature for 30 min. The reaction mixture was concentrated under reduced pressure, and the residue was suspended in ethyl acetate and filtered through celite. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→1:1) to give the title compound as a brown oil (yield 249 mg, 65%).

reactant | Ethyl 1-[(4-methoxyphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carboxylate | 430 mg | COC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C(=O)OCC | C20H19NO5S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Hydrochloric acid | 1 mol/l, 20 mL | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[(4-Methoxyphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde | yield 249 mg, 65% | COC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C=O | C18H15NO4S
